US07759518B2
3-Bromo-5-chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino) phenyl)thiophene-2-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with 3-bromo-5-chlorothiophene-2-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.41 (dd, J=2.1 & 10.5 Hz, 1H), 7.35 (br m, 2H), 7.31 (dd, J=2.1 & 4.2 Hz, 1H), 7.19 (d, J=8.7 Hz, 1H), 7.08 (dd, J=9.0 & 17.4 Hz, 1H), 6.02 (dt, J=2.1, 8.4 & 17.1 Hz, 1H), 5.59 (br s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 3-bromo-5-chlorothiophene-2-sulfonyl chloride | BrC1=C(SC(=C1)Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | 3-Bromo-5-chloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino) phenyl)thiophene-2-sulfonamide | BrC1=C(SC(=C1)Cl)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C16H8BrClF3IN2O2S2
